US09029536B2
A) 2-(5-Bromo-2,3-dihydro-1H-indol-1-yl)-1H-benzimidazole
A mixture of 5-bromoindoline (1 g) and 2-chloro-1H-benzo[d]imidazole (0.770 g) in DMA/DMF (5 mL, 3/2) was stirred at 150° C. for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (1.1 g).

reactant | 5-bromoindoline | 1 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | 2-chloro-1H-benzo[d]imidazole | 0.770 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | water | O | H2O
solvent | DMA DMF | 5 mL | CC(=O)N(C)C.CN(C)C=O
product | 2-(5-Bromo-2,3-dihydro-1H-indol-1-yl)-1H-benzimidazole | 1.1 g | BrC=1C=C2CCN(C2=CC1)C1=NC2=C(N1)C=CC=C2 | C15H12BrN3
